US05415852
Ammonium N(methoxycarbonyl)N-nitroamide (ammonium N-nitromethylcarbamate) was prepared by suspending 1.05 moles of methylcarbamate in 400 ml. of CHCl3 cooled in an ice bath under an argon atmosphere. This suspension was treated with 1 mole of acetic anhydride followed by a slow dropwise addition of 1 mole of 98% HNO3. The reaction temperature got as high as 25° C. with continuous ice bath cooling of the reaction vessel. The reaction mass was stirred overnite and the temperature was allowed to slowly rise to room temperature. To the reaction mixture was added 0.5 L. of chlorobenzene and the reaction mixture was then evaporated down to 300 ml. of total volume in a rotary evaporator. Another 0.5 L. of chlorobenzene and 100 ml. of methanol were added to the reaction mixture to dissolve the precipitated solid N(methoxycarbonyl)N-nitroamide.

reactant | methylcarbamate | 1.05 moles | CNC([O-])=O
reactant | acetic anhydride | 1 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | HNO3 | 1 mole | [N+](=O)(O)[O-] | HNO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Ammonium N(methoxycarbonyl)N-nitroamide | COC(=O)[N-][N+](=O)[O-].[NH4+] | InChI=1S/C2H4N2O4.H3N/c1-8-2(5)3-4(6)7;/h1H3,(H,3,5);1H3
